US04925847
3-(2-Methylbutyl)-8-ethyl-6-thioxanthine
3-(2-Methylbutyl)-8-ethylxanthine (13.33 gm) and phosphorus pentasulphide (14.23 gm) were refluxed in pyridine (190 ml) at a bath temperature of 140° C. After 4.5 hr, the brown solution was cooled to 10° C. and 2N sodium hydroxide {70 ml) was added. The pyridine was removed in vacuo from the suspension.

reactant | 3-(2-Methylbutyl)-8-ethylxanthine | 13.33 gm | CC(CN1C(NC(C=2NC(=NC12)CC)=O)=O)CC | C12H18N4O2
reactant | phosphorus pentasulphide | 14.23 gm | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium hydroxide | 2N, 70 ml | [OH-].[Na+]
solvent | pyridine | 190 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Methylbutyl)-8-ethyl-6-thioxanthine | CC(CN1C(NC(C=2NC(=NC12)CC)=S)=O)CC | C12H18N4OS
